US06121201
1-[4-Chloro-2-fluoro-5-(2-pyrimidyloxy)phenyl]-4-(3-fluoropropyl)-1,4-dihydro-5-oxo-5H-tetrazole (Compound 6-10) (Process 1).
A suspension of potassium carbonate (0.36 g), 1-[4-chloro-2-fluoro-5-(2-pyrimidyloxy)phenyl]-1,4-dihydro-5-oxo-5H-tetrazole (0.54 g) and 1-bromo-3-fluoropropane (0.37 g) in N,N-dimethylformamide (10 ml) was stirred in an oil bath at 80° C. for 26 hours. The reaction mixture was processed and the resulting oil chromatographed on silica gel eluting with hexane:ethyl acetate, 2:1, to give the product, mp 111-3° C. 1H NMR (CDCl3, TMS): 2.30(2H, m), 4.20(2H, t, J=6.9 Hz), 4.59(2H, dt, J=46.9, 6.6 Hz), 7.13(1H, dd, J=4.8 Hz), 7.48(1H, d, J=9.3 Hz), 7.58(1H, d, J=6.8 Hz), 8.58(2H, d, J=4.8 Hz).

reactant | potassium carbonate | 0.36 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-[4-chloro-2-fluoro-5-(2-pyrimidyloxy)phenyl]-1,4-dihydro-5-oxo-5H-tetrazole | 0.54 g | ClC1=CC(=C(C=C1OC1=NC=CC=N1)N1N=NNC1=O)F | C11H6ClFN6O2
reactant | 1-bromo-3-fluoropropane | 0.37 g | BrCCCF | C3H6BrF
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-[4-Chloro-2-fluoro-5-(2-pyrimidyloxy)phenyl]-4-(3-fluoropropyl)-1,4-dihydro-5-oxo-5H-tetrazole | ClC1=CC(=C(C=C1OC1=NC=CC=N1)N1N=NN(C1=O)CCCF)F | C14H11ClF2N6O2
